US07179812B2
2-Bromo-5-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-pyrazine (2.50 g, 9.0 mmol) is dissolved in methanol (700 ml) and hydrogenated for 2 h at r.t. in the presence of platinum(IV) oxide ×H2O (0.840 g, 3.40 mmol). The reaction mixture is filtered and concentrated in vacuo to yield 2-bromo-5-(4-[1,2,3]triazol-1-yl-butyl)-pyrazine as a colorless solid. Yield 1.63 g (64%)

reactant | 2-Bromo-5-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-pyrazine | 9.0 mmol, 2.50 g | BrC1=NC=C(N=C1)C#CCCN1N=NC=C1 | C10H8BrN5
reactant | H2O | 3.40 mmol, 0.840 g | O | H2O
solvent | methanol | 700 ml | CO | CH4O
solvent | platinum(IV) oxide | [Pt](=O)=O
product | 2-bromo-5-(4-[1,2,3]triazol-1-yl-butyl)-pyrazine | BrC1=NC=C(N=C1)CCCCN1N=NC=C1 | C10H12BrN5
